US04600776
86.8 g of N-acetyl-2,2,4-trimethyltetrahydroquinoline are dissolved in 600 ml of acetic anhydride and the solution is cooled to 0° C. 28 g of fuming nitric acid in 50 ml of acetic anhydride are now added dropwise. The mixture is kept at 0° C. for a further 30 minutes and is then stirred overnight at room temperature. It is poured onto water and the precipitate is filtered off with suction. 89 g of 1-acetyl-2,2,4-trimethyl-6-nitrotetrahydroquinoline of melting point 91° C. are obtained.

reactant | N-acetyl-2,2,4-trimethyltetrahydroquinoline | 86.8 g | C(C)(=O)N1C(CC(C2CC=CC=C12)C)(C)C | C14H21NO
reactant | nitric acid | 28 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-2,2,4-trimethyl-6-nitrotetrahydroquinoline | 89 g | C(C)(=O)N1C(CC(C2CC(=CC=C12)[N+](=O)[O-])C)(C)C | C14H20N2O3
